US06255301B1
(i) 3-(Formylamino)phenylacetic Acid Ethyl Ester
A solution of 3-aminophenylacetic acid ethyl ester (3.0 g; 0.017 mol; from Example T(i) above), and formic acid (1.5 g; 0.034 mol) in diisopropylether (150 mL) was refluxed with a Dean-Stark trap overnight. The solution was concentrated to dryness, dissolved in ether and washed with diluted HCl to remove remaining starting material. Drying (Na2SO4) and concentration yielded the sub-title compound (3.1 g; 89%).

reactant | 3-aminophenylacetic acid ethyl ester | 0.017 mol, 3.0 g | C(C)OC(CC1=CC(=CC=C1)N)=O | C10H13NO2
reactant | formic acid | 0.034 mol, 1.5 g | C(=O)O | CH2O2
solvent | diisopropylether | 150 mL | C(C)(C)OC(C)C | C6H14O
product | 3-(Formylamino)phenylacetic Acid Ethyl Ester | 3.1 g, 89% | C(C)OC(CC1=CC(=CC=C1)NC=O)=O | C11H13NO3
